US05677439
Preparation of 3'-O-t-butyldimethylsilyl-5'-azido-5'-deoxythymidine
To a stirred solution of the 3'-O-t-butyldimethylsilyl-5'-iodo-5'-deoxythymidine (10.8 g, 20 mmol) prepared according to the method of Example 25 in dry DMF (50 ml) was added sodium azide (3.9 g, 60 mmol) and the mixture heated at 0° C. for 12 hours. Then the reaction mixture was diluted with ethyl acetate (200 ml) washed with water (2×50 ml) and brine (50 ml) and then dried with sodium sulfate. The title compound was purified by flash chromatography using 50% ethyl acetate in hexance in 90% yield.

reactant | 3'-O-t-butyldimethylsilyl-5'-iodo-5'-deoxythymidine | 20 mmol, 10.8 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CI)N1C(=O)NC(=O)C(C)=C1 | C16H27IN2O4Si
reactant | sodium azide | 60 mmol, 3.9 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3'-O-t-butyldimethylsilyl-5'-azido-5'-deoxythymidine | 90% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CN=[N+]=[N-])N1C(=O)NC(=O)C(C)=C1 | C16H27N5O4Si
